US06514968B1
N,N-Diethyl-N-(2-{[8-fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-yl]oxy}ethyl)amine
8-Fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-ol (0.0226 g, 0.073 mmol), 2-diethylaminoethylchloride hydrochloride (0.0202 g, 0.12 mmol), potassium carbonate (0.0330 g, 0.24 mmol), sodium iodide (0.0018 g, 0.012 mmol) and DMF (1 mL) are heated at 80° C. for 3 h. After the mixture had cooled, it is partitioned between water and ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (20 mL) using methanol/dichloromethane (2/98 and 4/96) to give 0.0222 g (74%) of the title compound; mp 59-60° C.; MS (ESI+) for C25H27F2N2O m/z 409.3 (M+H)+; 1H NMR (CDCl3) δ1.21, 2.87, 3.22, 4.45, 5.67, 6.74, 6.94, 7.02, 7.14, 7.39, 8.11. Anal. Calcd for C25H26F2N2O: C, 73.51; H, 6.41; N, 6.86. Found: C, 73.05; H, 6.61; N, 6.83.

reactant | 8-Fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-ol | 0.073 mmol, 0.0226 g | FC=1C=CC=C2C=3C(=CC=CC3N(C12)CC1=CC=C(C=C1)F)O | C19H13F2NO
reactant | 2-diethylaminoethylchloride hydrochloride | 0.12 mmol, 0.0202 g | Cl.C(C)N(CCCl)CC
reactant | potassium carbonate | 0.24 mmol, 0.0330 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.012 mmol, 0.0018 g | [I-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N,N-Diethyl-N-(2-{[8-fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-yl]oxy}ethyl)amine | 0.0222 g, 74% | C(C)N(CCOC1=CC=CC=2N(C3=C(C=CC=C3C12)F)CC1=CC=C(C=C1)F)CC | C25H26F2N2O
